US04126140
PREPARATION OF 2,7,9,9-TETRAMETHYL-1,4-DIOXASPIRO[4,5]DEC-6-EN-8-ONE
To a 2 liter flask fitted with a reflux condenser, a water separator and a stirrer is charged 265 g of 2,6,6-trimethylcyclohex-2-en-1,4-dione (prepared by the method described in Helv.Chim.Acta. 39, 2041(1956)), 266 g of propylene glycol, 500 ml of benzene and 1 g of p-toluenesulfonic acid. The reactants are stirred and refluxed until no additional water is collected in the water separator. The product is washed with water to a pH of 6 and the solvent is stripped off. The residue is vacuum distilled through a nine inch Goodloe column to yield 257 g of product, b.p. 92° at 1 mm Hg (80% yield).

reactant | 2,6,6-trimethylcyclohex-2-en-1,4-dione | 265 g | CC=1C(C(CC(C1)=O)(C)C)=O | C9H12O2
reactant | propylene glycol | 266 g | C(C(C)O)O | C3H8O2
reactant | benzene | 500 ml | C1=CC=CC=C1 | C6H6
catalyst | p-toluenesulfonic acid | 1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | O | H2O
product | 2,7,9,9-TETRAMETHYL-1,4-DIOXASPIRO[4,5]DEC-6-EN-8-ONE | 257 g, 80% yield | CC1OC2(OC1)C=C(C(C(C2)(C)C)=O)C | C12H18O3
